### PR TITLE
Misc fixes in extraction

### PR DESCRIPTION
**Pull request by annenkov**
Inlining:
* more beta-reductions;
*  inline definitions in inductive types (we don't generate proofs of convertibility for types of inductives and their constructors, but inlining in inductives does not affect the dynamic semantics.

Pretty-printing:
* fixed printing of parameterised types in Liquidity.

Optimisations:
*  fixed deboxing of type aliases (now type abbreviations extract better).

Extraction examples:
* cleaned up ERC20 extraction to Liqudity and CameLIGO
* note that we can unfold the `AddrMap` type alias and remap `FMap` directly, which gives us extracted code with no extra type alias for `AddrMap`. This is crucial for CameLIGO, because it doesn't support polymorphic definitions and `AddrMap` has a type parameter;
* add tests for type scheme extraction to the Elm extraction.

### CODE REVIEW

File: extraction/examples/ElmExtractTests.v [hunk 1]
```diff
@@ -370,3 +371,128 @@ Module ex_infix1.
...
+
+  Definition P (b : bool) : Set := if b then nat else bool.
+  Definition Sch3 : (bool -> Set) -> Set := fun X => X true -> X false.
+  Definition Sch3_applied := (fun X => X true -> X false) (fun b => if b then nat else bool).
+
+  MetaCoq Quote Recursively Definition Sch3_syn := Sch3.
+
+  Example Sch3_test :
+    general_extract Sch3_syn [] [] = Ok "type alias Sch3 x = x -> x".
+  Proof. vm_compute. reflexivity. Qed.
```
Comment (jakobbotsch) [inline extraction/examples/ElmExtractTests.v:450]: Is this the extraction in Letouzey as well?

File: extraction/examples/ElmExtractTests.v [hunk 2]
```diff
@@ -370,3 +371,128 @@ Module ex_infix1.
...
+  Definition vec (A : Type) (n : nat) := {xs : list A | length xs = n}.
+
+  Program Definition singleton_vec (n : nat) : vec nat 1 := [n].
+  Next Obligation. easy. Qed.
+
+  MetaCoq Quote Recursively Definition singleton_vec_syn := singleton_vec.
+
+  MetaCoq Run (general_extract_tc singleton_vec_syn [] []).
+
+  (* NOTE: the extracted code is not well-typed in Elm, because Elm's type aliases do not support unused type variables *)
```
Comment (jakobbotsch) [inline extraction/examples/ElmExtractTests.v:477]: Outdated comment?

File: extraction/theories/CameLIGOExtract.v [hunk 3]
```diff
@@ -103,7 +113,8 @@ Definition TT_remap_default : list (kername * string) :=
   [
     (* types *)
     remap <%% Z %%> "tez"
-  ; remap <%% N %%> "nat"
+  (* NOTE: subtracting two [nat]s gives [int], so we remap [N] to [int] *)
+  ; remap <%% N %%> "int"
```
Comment (jakobbotsch) [inline extraction/theories/CameLIGOExtract.v:117]: Hmm, that doesn't seem right, does it? E.g. `(3 - 4 + 1)%N = 1%N` in Coq but now it extracts to something that equals `0`, if I understand correctly.

File: extraction/theories/LPretty.v [hunk 4]
```diff
@@ -87,13 +87,20 @@ Section print_term.
     | TApp t1 t2 => get_tapp_hd t1
     | _ => bt
     end.
+  
+  Definition print_type_var (v : name) (i : nat) :=
+    match v with
+    | nNamed nm => "'" ++ uncapitalize nm
+    | nAnon => "annon_tvar" ++ string_of_nat i
```
Comment (jakobbotsch) [inline extraction/theories/LPretty.v:94]:
```suggestion
    | nAnon => "anon_tvar" ++ string_of_nat i
```

**Review by jakobbotsch — APPROVED** [review]
Looks great! Just some minor nits/questions.

File: extraction/examples/ElmExtractTests.v (hunk 1 above)
Comment (annenkov) [reply extraction/examples/ElmExtractTests.v:450]: Yes, in Section 3.3.4, Type schemes, p.106 (Definition Sch3)

File: extraction/theories/CameLIGOExtract.v (hunk 3 above)
Comment (annenkov) [reply extraction/theories/CameLIGOExtract.v:117]: Yeah, you're right, I've copy-pasted it from somewhere without thinking.
I think we have to remap `N` to `int` anyway, but maybe we could change `remap <%% N.sub %%> "subInt"` to 
```OCaml
let subIntTruncated (a : int) (b : int) = let res = a - b in if res < 0 then 0 else res

```
@mikkelmilo maybe you can comment on that?

**Comment by annenkov** [comment]
Thanks @jakobbotsch for your comments!

File: extraction/theories/CameLIGOExtract.v (hunk 3 above)
Comment (mikkelmilo) [reply extraction/theories/CameLIGOExtract.v:117]: Yes, that would work.

Comment (annenkov) [reply extraction/theories/CameLIGOExtract.v:117]: Ok, I talked to @mikkelmilo, it will be resolved in the next PR.

File: extraction/examples/ElmExtractTests.v (hunk 1 above)
Comment (annenkov) [reply extraction/examples/ElmExtractTests.v:450]: But the code after `Sch3` is not from Letouzey's thesis, so I guess I'll move the `Vec` example.

Comment (annenkov) [reply extraction/examples/ElmExtractTests.v:450]: Ah, I have a module for type schemes, so I guess `Vec` example fits after all :)

**Review by mikkelmilo — APPROVED** [review]
